US06156739
8-Hydroxy-2-(4'-cyanophenyl)quinazolin-4-[3 H]-one
8-Methoxy-2-(4-cyanophenyl)quinazolin-4-[3 H]-one (0.2 g, 0.72 mmol) was suspended in a 1.0 M solution of BBr3 in DCM (3.6 ml) to give a brown suspension, which was refluxed for 48 hours. The solvent was directly distilled from the reaction vessel to leave a -brown solid, which was hydrolysed with 10% aq. NaOH solution to give a clear, yellow solution. The solution was neutralised with dilute HCl, whereupon a yellow precipitate formed. The reaction mixture was extracted into an excess of EtOAc. The organic layers were combined, dried (MgSO4) and filtered. The solvent was removed under vacuum to leave a cream solid. The product (108 mg) was purified by column chromatography, using DCM:MeOH (95:5) as the eluent, to give a cream solid (26.4 mg, 0.1 mmol), 14%).

reactant | 8-Methoxy-2-(4-cyanophenyl)quinazolin-4-[3 H]-one | 0.72 mmol, 0.2 g | COC=1C=CC=C2C(NC(=NC12)C1=CC=C(C=C1)C#N)=O | C16H11N3O2
reactant | BBr3 | B(Br)(Br)Br | BBr3
reactant | NaOH | [OH-].[Na+]
reactant | HCl | Cl | ClH
solvent | DCM | 3.6 ml | C(Cl)Cl | CH2Cl2
product | 8-Hydroxy-2-(4'-cyanophenyl)quinazolin-4-[3 H]-one | 0.1 mmol, 26.4 mg | OC=1C=CC=C2C(NC(=NC12)C1=CC=C(C=C1)C#N)=O | C15H9N3O2
